US04144047
Preparation of 3-(m-Tolyl)-4-Isothiazolecarboxylic Acid.
3-(m-Tolyl)-4,5-isothiazoledicarboxylic acid (7.98 g, 0.0303 mol) was heated in 25 ml of o-dichlorobenzene at vigorous reflux for 15 minutes and cooled. Hexane was added and the resultant precipitate was filtered off to yield 5.52 g (0.0258 mol, 83.1%) of a light pink solid, m.p. 144.5°-146°.

reactant | 3-(m-Tolyl)-4,5-isothiazoledicarboxylic acid | 0.0303 mol, 7.98 g | C1(=CC(=CC=C1)C1=NSC(=C1C(=O)O)C(=O)O)C | C12H9NO4S
reactant | Hexane | CCCCCC | C6H14
solvent | o-dichlorobenzene | 25 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 3-(m-Tolyl)-4-Isothiazolecarboxylic Acid | 0.0258 mol, 5.52 g, 83.1% | C1(=CC(=CC=C1)C1=NSC=C1C(=O)O)C | C11H9NO2S
